US09145370B2
BF3.OEt2 (0.62 ml, 5.0 mmol) was added to a solution of TFEDMA (0.59 ml, 5.0 mmol) in dry dichloromethanes (5 ml) under argon in a Teflon flask. The solution was stirred at room temperature for 15 min, before the dichloromethane was removed under reduced pressure. The residue was then taken up in dry acetonitrile (5 ml). In a second Teflon flask, ethyl trifluoroacetoacetate (0.73 ml, 5.0 mmol) was added to a solution of potassium fluoride (0.88 g, 15.0 mmol) in dry acetonitrile (10 ml) and the mixture was stirred at room temperature for 15 min. To this were added dropwise, at −30° C., the contents of the first flask. The reaction mixture was brought to room temperature in the cold bath and stirred overnight. Methyl hydrazine (0.32 ml, 6.0 mmol) was then added dropwise at room temperature and the mixture was stirred overnight. The solvent was removed under reduced pressure and the residue was purified by flash chromatography on silica gel with a pentanes/diethyl ether mixture (9:1-8:2). N-Methyl-5-trifluoromethyl-3-difluoromethyl-4-pyrazolecarboxylic acid ethyl ester (0.99 g, 3.64 mmol, 73%) was obtained as a yellow oil.

reactant | BF3.OEt2 | 5.0 mmol, 0.62 ml | B(F)(F)F.CCOCC
reactant | TFEDMA | 5.0 mmol, 0.59 ml | CN(C)C(C(F)F)(F)F | C4H7F4N
reactant | ethyl trifluoroacetoacetate | 5.0 mmol, 0.73 ml | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | potassium fluoride | 15.0 mmol, 0.88 g | [F-].[K+]
reactant | Methyl hydrazine | 6.0 mmol, 0.32 ml | CNN | CH6N2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-Methyl-5-trifluoromethyl-3-difluoromethyl-4-pyrazolecarboxylic acid ethyl ester | 3.64 mmol, 0.99 g, 73% | C(C)OC(=O)C=1C(=NN(C1C(F)(F)F)C)C(F)F | C9H9F5N2O2
